US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1S)-1-(hydroxymethyl)-3-methylbutyl]biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and (S)-2-bromo-N-(1-hydroxy-4-methylpentan-2-yl)benzene-sulfonamide. MS (ESI): mass calcd. for C22H25FN4O3S, 444.16; m/z found, 445.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.33 (s, 1H), 8.29 (d, J=1.4, 1H), 8.16-8.12 (m, 1H), 7.98-7.92 (m, 1H), 7.68-7.63 (m, 1H), 7.60-7.55 (m, 1H), 7.40-7.28 (m, 3H), 3.41-3.34 (m, 1H), 3.29-3.22 (m, 2H), 1.59-1.47 (m, 1H), 1.35-1.17 (m, 2H), 0.81 (d, J=6.7, 3H), 0.73 (d, J=6.5, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | (S)-2-bromo-N-(1-hydroxy-4-methylpentan-2-yl)benzene-sulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@H](CO)CC(C)C | C12H18BrNO3S
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1S)-1-(hydroxymethyl)-3-methylbutyl]biphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N[C@@H](CC(C)C)CO)F | C22H25FN4O3S
